US08466193B2
To a solution of 1-(3-nitrobenzyl)-1H-indole-6-carboxylic acid methyl ester (1.3 g, 4.2 mmol) in MeOH (40 mL) and AcOH (3 ml) was added Zinc dust (1.9 g, 29 mmol). After stirring at room temperature for 3 hr, the solids were filtered and the filtrate was diluted with ethyl acetate (150 ml) and washed with sat. NaHCO3 (200 ml). The organic layer was dried (MgSO4), filtered and concentrated to collect 1.24 g (100% yield) of 1-(3-aminobenzyl)-1H-indole-6-carboxylic acid methyl ester.

reactant | 1-(3-nitrobenzyl)-1H-indole-6-carboxylic acid methyl ester | 4.2 mmol, 1.3 g | COC(=O)C1=CC=C2C=CN(C2=C1)CC1=CC(=CC=C1)[N+](=O)[O-] | C17H14N2O4
solvent | MeOH | 40 mL | CO | CH4O
solvent | AcOH | 3 ml | CC(=O)O | C2H4O2
catalyst | Zinc | 29 mmol, 1.9 g | [Zn] | Zn
product | 1-(3-aminobenzyl)-1H-indole-6-carboxylic acid methyl ester | 1.24 g, 100% yield | COC(=O)C1=CC=C2C=CN(C2=C1)CC1=CC(=CC=C1)N | C17H16N2O2
